US08034812B2
To a suspension of sodium hydride (310 mg, 7.8 mmol) in N,N-dimethylformamide (10 mL) was slowly added a solution of ethyl 3-methyl-1H-pyrazole-5-carboxylate (1000 mg, 6.5 mmol) in N,N-dimethylformamide (5 mL) under ice-cooling, and the mixture was stirred at 0° C. for 10 min, then at room temperature for 20 min. To the reaction mixture was added a solution of 1-bromo-2-methoxyethane (1090 mg, 7.8 mmol) in N,N-dimethylformamide (4 mL), and the mixture was stirred at room temperature for 7 hr. The solvent was evaporated under reduced pressure, and ethyl acetate/tetrahydrofuran and water were added to the residue. The aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×3). Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=5/95→70/30) to give ethyl 1-(2-methoxyethyl)-3-methyl-1H-pyrazole-5-carboxylate (430 mg, 2.0 mmol) as a colorless liquid. To a solution of the obtained ethyl 1-(2-methoxyethyl)-3-methyl-1H-pyrazole-5-carboxylate (430 mg, 2.0 mmol) in tetrahydrofuran (6 mL) was added 8N aqueous sodium hydroxide solution (1.3 mL), and the mixture was stirred at room temperature for 3 hr. 1N Hydrochloric acid (13 mL) and ethyl acetate were added to the reaction mixture, and the aqueous layer was extracted with ethyl acetate (×3). Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure, and the residue was washed with ethyl acetate/hexane to give the title compound (310 mg, 83%) as a white solid.

reactant | sodium hydride | 7.8 mmol, 310 mg | [H-].[Na+]
reactant | ethyl 3-methyl-1H-pyrazole-5-carboxylate | 6.5 mmol, 1000 mg | CC1=NNC(=C1)C(=O)OCC | C7H10N2O2
reactant | 1-bromo-2-methoxyethane | 7.8 mmol, 1090 mg | BrCCOC | C3H7BrO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | ethyl 1-(2-methoxyethyl)-3-methyl-1H-pyrazole-5-carboxylate | 2.0 mmol, 430 mg | COCCN1N=C(C=C1C(=O)OCC)C | C10H16N2O3
